US04659708
A. 4-(3-Hydroxypropyl)-N-(6-methoxy-4-methyl-8-quinolinyl)-1-piperazine-hexanamide
A mixture of 4.3 g (0.012 mole) of 6-bromo-N-(6-methoxy-4-methyl-8-quinolinyl)hexanamide and 3.5 g (0.024 mole) of 1-piperazinepropanol was heated at 120° for 2 hr and allowed to cool. The mixture was diluted with ethyl acetate and excess triethylamine, washed with water, dried over anhydrous magnesium sulfate, filtered and concentrated in vacuo to dryness to afford 4.9 g (96%) of the desired compound as a gum. The IR and NMR (CDCl3) were consistent with the assigned structure.

reactant | 6-bromo-N-(6-methoxy-4-methyl-8-quinolinyl)hexanamide | 0.012 mole, 4.3 g | BrCCCCCC(=O)NC=1C=C(C=C2C(=CC=NC12)C)OC | C17H21BrN2O2
reactant | 1-piperazinepropanol | 0.024 mole, 3.5 g | N1(CCNCC1)CCCO | C7H16N2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 4-(3-Hydroxypropyl)-N-(6-methoxy-4-methyl-8-quinolinyl)-1-piperazine-hexanamide | 4.9 g, 96% | OCCCN1CCN(CC1)CCCCCC(=O)NC=1C=C(C=C2C(=CC=NC12)C)OC | C24H36N4O3
